US07429666B2
Step 1. (4-Isopropylphenyl)[4-(trifluoromethyl)benzyl]amine
Following the procedure described in Example 1A, step 1, 4-(trifluoromethyl)benzaldehyde and 4-isopropylaniline gave the title compound as a pale yellow oil.

reactant | 4-(trifluoromethyl)benzaldehyde | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | 4-isopropylaniline | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | (4-Isopropylphenyl)[4-(trifluoromethyl)benzyl]amine | C(C)(C)C1=CC=C(C=C1)NCC1=CC=C(C=C1)C(F)(F)F | C17H18F3N
